US04021479
4-(2-Fluoro-4-biphenylyl)-4-hydroxy-butyric acid
Prepared analogous to Example 25 from 4-(2-fluoro-4-biphenylyl)-4-oxo-butyric acid. Yield: 74% of theory, m.p. 133°-135° C. (from benzene).

reactant | 4-(2-fluoro-4-biphenylyl)-4-oxo-butyric acid | FC1=C(C=CC(=C1)C(CCC(=O)O)=O)C1=CC=CC=C1 | C16H13FO3
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 4-(2-Fluoro-4-biphenylyl)-4-hydroxy-butyric acid | Yield: 74% | FC1=C(C=CC(=C1)C(CCC(=O)O)O)C1=CC=CC=C1 | C16H15FO3
